US08426448B2
Add 4N HCl in dioxane (17 mL, 68 mmol) to [1-(6-cyano-pyridin-2-yl)-1-methyl-ethyl]-carbamic acid tert-butyl ester (1.2 g, 5 mmol). Stir the solution at room temperature for 10 minutes and observe the formation of a white solid. Stir the reaction at room temperature for 4 hours. Evaporate the solvent to give 6-(1-amino-1-methyl-ethyl)-pyridine-2-carbonitrile hydrochloride salt as a white solid (880 mg, 97% yield).

reactant | HCl | 4N | Cl | ClH
reactant | dioxane | 68 mmol, 17 mL | O1CCOCC1 | C4H8O2
reactant | [1-(6-cyano-pyridin-2-yl)-1-methyl-ethyl]-carbamic acid tert-butyl ester | 5 mmol, 1.2 g | C(C)(C)(C)OC(NC(C)(C)C1=NC(=CC=C1)C#N)=O | C14H19N3O2
product | 6-(1-amino-1-methyl-ethyl)-pyridine-2-carbonitrile hydrochloride salt | 880 mg, 97% yield | Cl.NC(C)(C)C1=CC=CC(=N1)C#N | InChI=1S/C9H11N3.ClH/c1-9(2,11)8-5-3-4-7(6-10)12-8;/h3-5H,11H2,1-2H3;1H
